US07078407B2
Preparation of 3-(3,5-dibutoxy-4-hydroxyphenyl)-N-[2-(3,5-di-t-butyl-4-hydroxyphenyl)ethyl]acrylamide
To the solution of 3-(3,5-dibutoxy-4-hydroxyphenyl)acrylic acid (130 mg, 0.421 mmol), 4-(2-aminoethyl)-2,6-di-t-butylphenol (110 mg, 0.441 mmol) and HOBT (70 mg, 0.51 mmol) in MeCN 10 ml were DCC at 0° C. After 5 minutes, the solution was stirred for 2 hours at room temperature. And then the precipitate was removed by filtering it through a celite layer and the solution was poured into CH2Cl2. The solution was washed with 2N HCl and saturated NaHCO3 solution and the water was dried over anhydrous magnesium sulfate and filtered. The obtained filtrate was vacuum concentrated to give the residue, which was purified by column chromatography (EtOAc:Hexane=1:3), yielding 208 mg (91%) of the title compound.

reactant | 3-(3,5-dibutoxy-4-hydroxyphenyl)acrylic acid | 0.421 mmol, 130 mg | C(CCC)OC=1C=C(C=C(C1O)OCCCC)C=CC(=O)O | C17H24O5
reactant | 4-(2-aminoethyl)-2,6-di-t-butylphenol | 0.441 mmol, 110 mg | NCCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C16H27NO
reactant | HOBT | 0.51 mmol, 70 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | MeCN | 10 ml | CC#N | C2H3N
product | 3-(3,5-dibutoxy-4-hydroxyphenyl)-N-[2-(3,5-di-t-butyl-4-hydroxyphenyl)ethyl]acrylamide | 208 mg, 91% | C(CCC)OC=1C=C(C=C(C1O)OCCCC)C=CC(=O)NCCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C33H49NO5
